US06627651B1
To 3-(4-methylbenzyloxy)-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene (2.67 g, 9.52 mmol) dissolved in dimethyl carbonate (40 ml) was added sodium methoxide (2.57 g, 47.6 mmol), and the resulting mixture was stirred at reflux with heating (110° C.) for 6 hours. The reaction mixture was mixed with 1 N hydrochloric acid (60 ml) under ice cooling and was concentrated under reduced pressure to remove the organic solvent, and then the aqueous layer was extracted with ethyl acetate (30 ml×3). The combined organic layers were dried with anhydrous magnesium sulfate and were then concentrated under reduced pressure, and the residue was subjected to column chromatography (silica gel: 40 g, ethyl acetate/hexane=1/30). The objective fractions were concentrated under reduced pressure to obtain methyl 3-(4-methylbenzyloxy)-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene-6-carboxylate (2.84 g, 8.39 mmol, 88%).

reactant | 3-(4-methylbenzyloxy)-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene | 9.52 mmol, 2.67 g | CC1=CC=C(COC2=CC3=C(CCCCC3=O)C=C2)C=C1 | C19H20O2
reactant | sodium methoxide | 47.6 mmol, 2.57 g | C[O-].[Na+]
reactant | hydrochloric acid | 1 N, 60 ml | Cl | ClH
reactant | dimethyl carbonate | 40 ml | C(OC)(OC)=O | C3H6O3
product | methyl 3-(4-methylbenzyloxy)-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene-6-carboxylate | 8.39 mmol, 2.84 g, 88% | CC1=CC=C(COC2=CC3=C(CCCC(C3=O)C(=O)OC)C=C2)C=C1 | C21H22O4
